US03956308
EXAMPLE 5: 1-(2-fluorophenyl)-3-methyl-5-methoxythioimino-2,4-imidazolidinedione
A solution of 3.2 g (0.1 mole) methanol and 7.9 g (0.1 mole) pyridine in 20 ml of methylene chloride was added dropwise to a solution of about 0.1 mole of 1-(2-fluorophenyl)-3-methyl-5-chlorothioimino-2,4-imidazolidinedione in 100 ml of methylene chloride at 0°C. The resulting reaction mixture was stirred for about 30 minutes at 0°C., washed with water, washed with sodium bicarbonate, dried over magnesium sulfate, and evaporated under reduced pressure to give a yellow solid residue. The solid was washed with isopropyl alcohol to give the product as a pale yellow solid, m.p. 124°-127° C. Elemental analysis showed:

reactant | methanol | 0.1 mole, 3.2 g | CO | CH4O
reactant | pyridine | 0.1 mole, 7.9 g | N1=CC=CC=C1 | C5H5N
reactant | 1-(2-fluorophenyl)-3-methyl-5-chlorothioimino-2,4-imidazolidinedione | about 0.1 mole | FC1=C(C=CC=C1)N1C(N(C(C1=NSCl)=O)C)=O | C10H7ClFN3O2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-fluorophenyl)-3-methyl-5-methoxythioimino-2,4-imidazolidinedione | FC1=C(C=CC=C1)N1C(N(C(C1=NSOC)=O)C)=O | C11H10FN3O3S
